US06660738B2
1.0 g (2.0 mmol) (2S,4R)-[1-(5-Propyl-pyrimidin-2-yl)-4-tritylsulfanyl-pyrrolidin-2-yl]-methanol in 15 ml THF were treated with 764 mg (2.82 mmol) triphenyl phosphine and 420 mg (2.82 mmol) phthalimide at RT. The solution was cooled to 0° C. and 615 μl (3.83 mmol) diethylazo dicarboxylate in 3 ml THF were added. The solution was stirred at RT over night, H2O was added and the inorganic layer was extracted with ETOAc. The combined layers were washed with 1M NaOH, sat. NaHCO3 solution and brine, and were dried over Na2SO4. Column chromatography with EtOAc:hexane 1:2 as eluent yielded 1.20 g (95%) (2S,4R)-2-[1-(5-Propyl-pyrimidin-2-yl)-4-tritylsulfanyl-pyrrolidin-2-ylmethyl]-isoindole-1,3-dione as white solid, MS: 625 (MH+).

reactant | (2S,4R)-[1-(5-Propyl-pyrimidin-2-yl)-4-tritylsulfanyl-pyrrolidin-2-yl]-methanol | 2.0 mmol, 1.0 g | C(CC)C=1C=NC(=NC1)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C31H33N3OS
reactant | triphenyl phosphine | 2.82 mmol, 764 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 2.82 mmol, 420 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethylazo dicarboxylate | 3.83 mmol, 615 μl | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | (2S,4R)-2-[1-(5-Propyl-pyrimidin-2-yl)-4-tritylsulfanyl-pyrrolidin-2-ylmethyl]-isoindole-1,3-dione | 1.20 g, 95% | C(CC)C=1C=NC(=NC1)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O | C39H36N4O2S
